### PR TITLE
[Merged by Bors] - chore: adaptations for leanprover/lean4#3124

### PR DESCRIPTION
**Pull request by kim-em**
These are adaptations required for Leo's implementation of simprocs from leanprover/lean4#3124. 

This is a PR to `bump/v4.6.0`. Before it can be merged we need to merge 
- [x] https://github.com/leanprover/std4/pull/496
- [x] https://github.com/leanprover-community/aesop/pull/93
and then to update the lakefile so both dependencies point at the `bump/v4.6.0` branches.

I've updated a number of Mathlib tactics to adjust to the new type signatures in the simplifier, and these changes need to be reviewed carefully.

---

- [x] depends on: #9452
- [x] depends on: #9453
- [x] depends on: #9538 
- [x] depends on: #9539 
- [x] depends on: #9540
- [x] depends on: #9542

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Num/Prime.lean [hunk 1]
```diff
@@ -76,7 +76,11 @@ theorem minFac_to_nat (n : PosNum) : (minFac n : ℕ) = Nat.minFac n := by
     calc
       (n : ℕ) + (n : ℕ) + 1 ≤ (n : ℕ) + (n : ℕ) + (n : ℕ) := by simp
       _ = (n : ℕ) * (1 + 1 + 1) := by simp only [mul_add, mul_one]
-      _ < _ := by simp [mul_lt_mul]
+      _ < _ := by
+        -- The introduction of simprocs in leanprover/lean4#3124 causes a problem here.
+        -- Minmisation seems difficult: extracting this goal to a separate lemma,
+        -- `simp [mul_lt_mul]` works fine!
```
Comment (semorrison) [inline Mathlib/Data/Num/Prime.lean:82]:
```suggestion
```

File: Mathlib/GroupTheory/Perm/Basic.lean [hunk 2]
```diff
@@ -587,7 +587,7 @@ theorem mul_swap_eq_iff {i j : α} {σ : Perm α} : σ * swap i j = σ ↔ i = j
 
 theorem swap_mul_swap_mul_swap {x y z : α} (hxy : x ≠ y) (hxz : x ≠ z) :
     swap y z * swap x y * swap y z = swap z x := by
-  nth_rewrite 2 [← swap_inv]
+  nth_rewrite 3 [← swap_inv]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Basic.lean:590]: Did simprocs really make a difference here?

File: test/matrix.lean [hunk 3]
```diff
@@ -1,7 +1,3 @@
-/-
-manually ported from
-https://github.com/leanprover-community/mathlib/blob/4f4a1c875d0baa92ab5d92f3fb1bb258ad9f3e5b/test/matrix.lean
--/
```
Comment (eric-wieser) [inline test/matrix.lean:4]: Please stop deleting this line every time you edit this file!

Comment (semorrison) [reply test/matrix.lean:4]: Oh, sorry, it is on `nightly-testing` so keeps getting incorporated back into bump PRs. I'll clean up in both locations now.

Comment (semorrison) [reply test/matrix.lean:4]: Done.

File: Mathlib/GroupTheory/Perm/Basic.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/GroupTheory/Perm/Basic.lean:590]: No, this one is from leanprover/lean4#2539, which landed in [nightly-2024-01-03](https://github.com/leanprover/lean4-nightly/releases/tag/nightly-2024-01-03).

I thought we already had an adaptation PR for that, so perhaps this is a change that landed in Mathlib master and so was ad-hoc fixed on `nightly-testing` in the meantime.

I propose just rolling it in here to avoid the overhead of a separate PR.

File: test/matrix.lean (hunk 3 above)
Comment (eric-wieser) [reply test/matrix.lean:4]: Thanks!

**Comment by semorrison** [comment]
!bench

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
